US09145414B2
In accordance with Example 4 (Steps 1 and 2), methyl 4-bromo-1H-indazole-6-carboxylate was used instead of 5-nitro-1H-indazole, and 2-iodoethane was used instead of ethyl bromide-d5 to obtain methyl 4-bromo-1-ethyl-1H-indazole-6-carboxylate.

reactant | methyl 4-bromo-1H-indazole-6-carboxylate | BrC1=C2C=NNC2=CC(=C1)C(=O)OC | C9H7BrN2O2
reactant | 2-iodoethane | ICC | C2H5I
product | methyl 4-bromo-1-ethyl-1H-indazole-6-carboxylate | BrC1=C2C=NN(C2=CC(=C1)C(=O)OC)CC | C11H11BrN2O2
